US08003806B2
(b) Ethyl 3-phenyl-3-[6-(trifluoromethyl)-1H-benzimidazol-1-yl]propanoate
To a solution of ethyl 3-[4-bromo-6-(trifluoromethyl)-1H-benzimidazol-1-yl]-3-phenyl-2-propenoate (111 mg, 253 μmol) in ethanol (4 mL) was added palladium on carbon (23 mg, 10% w/w Pd) and ammonium formate (159 mg, 2.52 mmol). The suspension was heated to reflux for 3 hours, then cooled to room temperature, and filtered through a pad of Celite®. The filtrate was evaporated in vacuo to afford the title compound, 1H NMR: (CDCl3), 8.10 (s, 1H), 7.79 (d, J=8.79, 1H), 7.49 (s, 1H), 7.42 (d, H=8.79, 1H), 7.31-7.23 (m, 3H), 7.18-7.14 (m, 2H), 6.00 (dd, J=6.96, 6.96, 1H), 3.98 (q, J=7.32, 2H), 3.36-3.25 (m, 2H), 1.03 (t, J=7.32, 3H).

reactant | ethyl 3-[4-bromo-6-(trifluoromethyl)-1H-benzimidazol-1-yl]-3-phenyl-2-propenoate | 253 μmol, 111 mg | BrC1=CC(=CC=2N(C=NC21)C(=CC(=O)OCC)C2=CC=CC=C2)C(F)(F)F | C19H14BrF3N2O2
reactant | ammonium formate | 2.52 mmol, 159 mg | C(=O)[O-].[NH4+]
solvent | ethanol | 4 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 23 mg | [Pd] | Pd
product | Ethyl 3-phenyl-3-[6-(trifluoromethyl)-1H-benzimidazol-1-yl]propanoate | C1(=CC=CC=C1)C(CC(=O)OCC)N1C=NC2=C1C=C(C=C2)C(F)(F)F | C19H17F3N2O2
